US08541411B2
c) 4-bromo-2-methyl-6-(4-morpholinyl)-1H-benzimidazole
To a solution of 2-methyl-6-(4-morpholinyl)-1-(phenylmethyl)-1H-benzimidazol-4-amine (2.3 g, 10 mmol) in aqueous HBr (50 mL) was added a solution of NaNO2 (720 mg, 10.5 mmol) in water (10 mL) dropwise at 0-5° C. After addition the mixture was stirred at 0° C. for 5 minutes, another solution of NaBr (3.1 g, 30 mmol) in aqueous HBr (50 mL) was added dropwise at 60° C. The resulting mixture was then heated to 80° C. for 30 minutes and then cooled to room temperature. It was neutralized with aqueous 2N NaOH and extracted with EtOAc (100 mL×3). The combined organic layers were concentrated in-vacuum and the residue was purified by silica gel chromatography eluted with petroleum ether:EtOAc=1:1 to give the desired product (1.7 g, 58%) as a white solid. 1H NMR (300 MHz, DMSO-d6): δ ppm 2.44 (s, 3H), 3.07 (t, 4H, J=4.8 Hz), 3.74 (t, 4H, J=4.8 Hz), 6.85 (d, 1H, J=1.8 Hz), 7.04 (d, 1H, J=1.8 Hz), 12.20 (br s, 1H); LC-MS: m/e=296 [M+1]+

reactant | 2-methyl-6-(4-morpholinyl)-1-(phenylmethyl)-1H-benzimidazol-4-amine | 10 mmol, 2.3 g | CC1=NC2=C(N1CC1=CC=CC=C1)C=C(C=C2N)N2CCOCC2 | C19H22N4O
reactant | NaNO2 | 10.5 mmol, 720 mg | N(=O)[O-].[Na+]
reactant | NaBr | 30 mmol, 3.1 g | [Na+].[Br-]
reactant | NaOH | 2N | [OH-].[Na+]
solvent | HBr | 50 mL | Br | BrH
solvent | water | 10 mL | O | H2O
solvent | HBr | 50 mL | Br | BrH
product | 4-bromo-2-methyl-6-(4-morpholinyl)-1H-benzimidazole | 1.7 g, 58% | BrC1=CC(=CC=2NC(=NC21)C)N2CCOCC2 | C12H14BrN3O
